US08026234B2
4-(9-Cyclopentyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid:
A mixture of 2-chloro-9-cyclopentyl-7-ethyl-7-fluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (630 mg, 1.93 mmol), 4-amino-3-methoxybenzoic acid (484 mg, 2.9 mmol), isopropanol (20 ml), and concentrated hydrochloric acid (10 drops) was stirred at 100° C. for 20 h. Solid was filtered to give 730 mg product as white solid (83%). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.92 (t, J=7.3 Hz, 3H) 1.56 (br. s., 3H) 1.67-1.96 (m, 6H) 3.28 (s, 3H) 3.74-3.92 (m, 3H) 3.94 (s, 3H) 4.91 (t, J=7.8 Hz, 1H) 7.21-7.43 (m, 1H) 7.47-7.69 (m, 2H) 8.13 (d, J=8.1 Hz, 1H) 8.24 (s, 1H) 9.32 (br. s., 1H). [M+H] calc'd for C23H28FN5O4, 458. found 458.

reactant | 2-chloro-9-cyclopentyl-7-ethyl-7-fluoro-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 1.93 mmol, 630 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)CC)C2CCCC2)N1 | C15H20ClFN4O
reactant | 4-amino-3-methoxybenzoic acid | 2.9 mmol, 484 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(9-Cyclopentyl-7-ethyl-7-fluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 730 mg, 83% | C1(CCCC1)N1C2=C(N(C(C(C1)(F)CC)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H28FN5O4
